US06713471B1
(8aS,12aR)-11-[2-(1H-1,2,3-benzotriazol-1-yl)ethyl]-6,7,8a,9,10,11,12,12a-octahydro-5H-pyrido[4,3-b][1,4]thiazepino[2,3,4-hi]indole
1-(2-Chloroethyl)-1H-1,2,3-benzotriazole (164 mg, 36%) was prepared from benzotriazole (300 mg, 2.52 mmol) and 1-bromo-2-chloro ethane (397 mg, 2.77 mmol) according to the procedure of Example 291. The title compound was isolated as a yellow oil (48 mg, 98%) according to the method of Example 286, Step C from (8aS,12aR)-6,7,8a,9,10,11,12,12a-octahydro-5H-pyrido[4,3-b][1,4]thiazepino[2,3,4-hi]indole (30 mg, 0.12 mmol) and 1-(2-chloroethyl)-1H-1,2,3-benzotriazole (44 mg, 0.24 mmol). 1H NMR (CDCl3) δ1.69-2.20 (m, 4H), 2.39-2.45 (m, 1H), 2.61-2.68 (m, 1H), 2.72-2.81 (m, 1H), 2.84-3.01 (m, 2H), 3.03-3.12 (m, 2H), 3.20-3.27 (m, 1H), 3.49-3.60 (m, 1H), 3.74-3.84 (m, 1H), 4.06 (t, 1H, J=6.7 Hz), 4.76 (t, 1H, J=6.6 Hz), 4.96 (t, 1H, J=6.2 Hz), 6.61 (t, 1H, J=7.5 Hz), 6.82 (d, 1H, J=7 Hz), 6.95 (dd, 1H, J=1.1, 7.7 Hz), 7.34-7.62 (m, 3H), 8.08 (t, 1H, J=7.6 Hz) ppm.

reactant | benzotriazole | 2.52 mmol, 300 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | 1-bromo-2-chloro ethane | 2.77 mmol, 397 mg | BrCCCl | C2H4BrCl
product | 1-(2-Chloroethyl)-1H-1,2,3-benzotriazole | 164 mg, 36% | ClCCN1N=NC2=C1C=CC=C2 | C8H8ClN3
